### PR TITLE
Feat: Verified and easy-to-use parser combinators

### PR DESCRIPTION
**Pull request by MikaelMayer**
Fixes https://github.com/dafny-lang/dafny/issues/5418

This PR adds to the standard library support for functional parsers and parsers combinators.
A parser is simply a `Input -> ParseResult<T>` where `ParseResult` is either a success or a failure that contains the remaining unparsed input. A parsing failure is "committed" if the remaining unparsed input is strictly smaller than the input. Disjunctions can happen only if a failure is not committed. Combinators can help modify the consumption of the input, which makes it possible to create a rich variety of parsers.

The Parsers module is abstract as parsers operate on an `Input` that can be converted at any time to a `seq<C>`. In `StringParsers`,  `C` is a char and `Input` is a datatype simulating lazy slicing on the input string. _That lazy slicing resulted in a +16% speedup on a real benchmark_ compared to just having `seq<char>` for `Input`.

You can browse the example to understand how parsers combinators can be used.
* A parser for [polynomial expressions](https://github.com/dafny-lang/dafny/pull/6143/files#diff-c5d3800e6e8da5ab42bed329634d95da4c46e31bb620b8d08a821a9da51fd9b5) like `4*(1+3)*x^3+x`
* A [Tic-tac-toe grid parser](https://github.com/dafny-lang/dafny/pull/6143/files#diff-7ba66be3f55caa0c9bfe4cfb61675415fe47e7e8424910144dd6927155be2860R35)

The easiest way to use parsers is to use the parsers _builders_. Parser builds are a datatype wrapper around parsers to make it possible to have suffix and infix combinators. This allows chaining and avoid nested parentheses. See the following examples:
* The same parser for [polynomial expressions](https://github.com/dafny-lang/dafny/pull/6143/files#diff-7c8a24a38e43102d28fd0c2026ea2f646a9727e6d14e14ae89a12cfb2fe5dc99) like `4*(1+3)*x^3+x` but the syntax seems better to me.
* A [JSON-like parser](https://github.com/dafny-lang/dafny/pull/6143/files#diff-f386eef6dbc01a366aa9e866afbdaab0eb8c72fbdf91dbcfda32458919719e0d) in 70 LoC
* A [Dafny-like parser](https://github.com/dafny-lang/dafny/pull/6143/files#diff-1ae59ba5e1ff7e9cc158379ea87c859512575e80867ada3aa31da688e20b85c7) that can parse imports, nested modules and declarations
* A [Parser generator parser](https://github.com/dafny-lang/dafny/pull/6143/files#diff-99994403f00e56ec0c5c0fd90564c5ee62494024a208cf11026bf2de18cfdf90) that can parse expressions of the type `abc((de|f((g))*))ml"`, create another parser out of that, and apply this parser to an input string like `"abcdeml"`.
* A [Tic-tac-toe grid parser](https://github.com/dafny-lang/dafny/pull/6143/files#diff-7ba66be3f55caa0c9bfe4cfb61675415fe47e7e8424910144dd6927155be2860R86)

Notable features include:
* Combinators for repetition do not concatenate sequences with one value at a time. Instead, they build a linked list and when done convert the whole linked list to a sequence. _This resulted in a +430% speedup on a benchmark that was using single-character repetition when using the JavaScript version of the parsers._
* Debugging utilities and tutorial to explain how to use them in the [README.md](https://github.com/dafny-lang/dafny/pull/6143/files#diff-bac1233d8bf92d4439458a4a2bc27836b12fa6e5d9fc6e2b093b6bec53fb5445R130)
* It is not possible to create parsers that don't terminate, thanks Dafny for proving it. At worst, a non-terminating parser will always return a "fatal" parsing result that can be still be analyzed at run-time.
* It is possible to prove that parsers won't return fatal errors and perform progress. Some parser combinators have proofs of progress preservation and absence of fatal errors in [ParserTheorems.dfy](https://github.com/dafny-lang/dafny/pull/6143/files#diff-c6b1ebe4be6a7a6122c6106b200432f40581afa46cc1ff2f3e370dce012f7662)
* Support for multiple parse error messages
* For string parsers, a utility to display nice error messages that includes the line number, the line, a hat to indicate the column where parsing fails, and a detailed error message.
```
Error:
1; 1+*   
     ^   
expected '(', or
expected a digit, or
expected 'x'
```

* Largely inspired from (Meijer 1996) parsers

## How has this been tested?

- Main examples in the README.md are checked
- Several example illustrate the parsers functionality
- I have used this parsers combinators library on a big project.

<small>By submitting this pull request, I confirm that my contribution is made under the terms of the [MIT license](https://github.com/dafny-lang/dafny/blob/master/LICENSE.txt).</small>

### CODE REVIEW

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/Parsers.dfy [hunk 1]
```diff
@@ -0,0 +1,756 @@
...
+
+  lemma IsRemainingTransitive(input: Input, remaining1: Input, remaining2: Input)
+    requires IsRemaining(input, remaining1)
+    requires IsRemaining(remaining1, remaining2)
+    ensures IsRemaining(input, remaining2)
+  {
+    A.AboutDrop(input, A.Length(input)-A.Length(remaining1), A.Length(remaining1)-A.Length(remaining2));
+  }
+
+  // Cannot express this predicate if Input is allocated. Add once we accept quantification over unallocated objects
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Parsers/Core/Parsers.dfy:217]: You might be interested in the "proof trait" pattern I used in the Actions library: https://github.com/dafny-lang/dafny/pull/6074/files#diff-cb5145d4b584ea7656360f05c946523c48c5651815cea269b469a855844c3ed2R105

**Review by robin-aws — CHANGES_REQUESTED** [review]
Just some initial thoughts based on the offline demo, will return for a more thorough review.

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy [hunk 2]
```diff
@@ -0,0 +1,374 @@
...
+        - If `a` succeeds, executes `b` on what `a` left behind and returns that result, ignoring `a`.  
+        - If `a` fails, returns that failure instead.  
+        See also `I_e` (include exclude)
+        You can chain the calls e.g.
+
+            a.e_I(b).e_I(c)
+            a.e_I(b.e_I(c))  
+        
+        will parse a, b, c but only return the result of `c`. */
+    function e_I<U>(other: B<U>): (p: B<U>)
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy:114]: `_I` is not a valid user-defined Dafny identifier because it starts with underscore. I also wanted that initially. That's also why I made the `e` lowercase. Also, the `e` lowercase makes me think of the interdiction sign on the road, a bit bended :-)

File: Source/DafnyStandardLibraries/examples/Parsers/Tutorial.dfy [hunk 3]
```diff
@@ -0,0 +1,104 @@
...
+    var v := S("|");
+    var row := x.I_e(v).I_I(x).I_e(v).I_I(x);   // I stands for included, e for excluded
+    var sep := S("\n-+-+-\n");
+    var grid := row.I_e(sep).I_I(row).I_e(sep).I_I(row);
+    var input := "O|X| \n-+-+-\nX|O| \n-+-+-\nP| |O";
+    var r := grid.Apply(input);
+    expect r.ParseFailure?;
+    var failureMessage := P.FailureToString(input, r);
+    expect failureMessage
+        == "Error:"           + "\n" +
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/examples/Parsers/Tutorial.dfy:97]: The problem with `@"..."` is that indentation is treated as part of the constant, the first line requires two more characters than the remaining lines (because of the `@"` initial) and, because of the way Windows checks out lines, the expect would automatically fail if it expects `"\r\n"` instead of `"\n"`.
The format I used above makes it possible to preserve the indentation while still having a visual about what the output should look like, and having control over all the characters.
Alternatively, I could use `@"` and still have the right indentation, by writing something like:
```
    StripIdent(@"
       FirstLine()
       SecondLine()");
```
where strip ident would
- Be a method in the standard library, somewhere?
- Remove the first newline
- Detect the indentation of the first line
- Erase the indentation on all subsequent lines
- Erase Windows' carriage return `\r`.

I would prefer the current approach because it does not require any special handling of the string.
I'm personally using `@""` mostly for regular expressions, to avoid escaping backslashes, not to avoid newlines.

File: Source/DafnyStandardLibraries/examples/dfyconfig.toml [hunk 4]
```diff
@@ -5,7 +5,7 @@ standard-libraries = true
 # but consumers don't have to have this option set
 # to use the standard libraries in general.
 reads-clauses-on-methods = true
-enforce-determinism = true
+#enforce-determinism = true
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/examples/dfyconfig.toml:8]: I think this was accidentally committed. Thanks for pointing it out.

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/Parsers.dfy [hunk 5]
```diff
@@ -0,0 +1,756 @@
...
+    // A parser that returns the current char if it passes the test
+    // Returns a recoverable error based on the name otherwise
+  {
+    (input: Input) =>
+      if 0 < A.Length(input) && test(A.CharAt(input, 0)) then ParseSuccess(A.CharAt(input, 0), A.Drop(input, 1))
+      else ParseFailure(Recoverable,
+                        FailureData("expected a "+name, input, Option.None))
+  }
+
+  opaque function IntToString(n: int): string
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/Core/Parsers.dfy:727]: Excellent suggestion.

[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/Core/Parsers.dfy:727]: I remember why I did not do that. In the project that was using these parsers, I was only import Std.Wrappers and these parsers.
By using Std.Strings.OfInt(), I now need to include all these files

```
  "Std/Strings.dfy",
  "Std/Arithmetic/Power.dfy",
  "Std/Arithmetic/Mul.dfy",
  "Std/Arithmetic/DivMod.dfy",
  "Std/Arithmetic/Logarithm.dfy",
  "Std/Arithmetic/Internal/DivInternals.dfy",
  "Std/Arithmetic/Internal/GeneralInternals.dfy",
  "Std/Arithmetic/Internal/ModInternals.dfy",
  "Std/Arithmetic/Internal/MulInternalsNonlinear.dfy",
  "Std/Arithmetic/Internal/ModInternalsNonlinear.dfy",
  "Std/Arithmetic/Internal/DivInternalsNonlinear.dfy",
  "Std/Arithmetic/Internal/MulInternals.dfy",
  "Std/Arithmetic/LittleEndianNat.dfy",
```

much of which is useless to my application. Looking forward being able to just enable standard libraries soon :-)

File: Source/DafnyStandardLibraries/src/Std/Parsers/README.md [hunk 6]
```diff
@@ -0,0 +1,336 @@
...
+<!-- %check-expect -->
+```expect
+Error:
+1:  1 2 3 4 
+            ^
+expected a digit
+```
+
+It's expecting a digit where it should have just accepted the end of the string. To figure out what went wrong,
+let's first define two debug functions like below - they can't be defined in the library because they have print effects. You could change the type of the output of string if you were to customize them.
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/README.md:180]: I think the way we could do it would be to define a new module `ParserBuildersLog` that would keep track of everything like this
```
datatype B<P> = B(p: Parser<(P, string)>) = {
  ... All operators but adding a log to it
}
... All operators but taking into account the log
```
Then, to import these, one could simply replace `import Std.Parsers.StringParsersBuilders` by adding `Log` at the end of the last one.
However, it would have the extra hassle that it has to be maintained separately.
To avoid the separation, one would have to create another abstract module
```
abstract module StringBuildersAbstract refines ParserBuilders {
  type Returning<P>
  function Extract(r: Returning<P>): P
  function Combine(a: Returning<P>, r: Returning<Q>): Returning<P>
}
module StringBuilders StringBuildersAbstract {
  type Returning<P> = P
}
module StringBuildersLog StringBuildersAbstract {
  type Returning<P> = (P, string)
}
```

Let me know if it's important for you that we do it this way.

File: Source/DafnyStandardLibraries/examples/Parsers/PolynomialParser.dfy
Comment (robin-aws) [inline Source/DafnyStandardLibraries/examples/Parsers/PolynomialParser.dfy:1]: I really like that you're showing this example with both styles of constructing parsers, but since the rest is identical, I'd say combine them into one file and just run the tests on both copies.

File: Source/DafnyStandardLibraries/examples/Parsers/Tutorial.dfy (hunk 3 above)
[the remark this answers is not in the document]
Comment (robin-aws) [reply Source/DafnyStandardLibraries/examples/Parsers/Tutorial.dfy:97]: Fair that this is well out of scope for this PR at least. But those stripping utilities definitely sound like great things to add to `Std.Strings` in the future, so all Dafny users can get more value out of verbatim strings.

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/Parsers.dfy (hunk 5 above)
[the remark this answers is not in the document]
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Parsers/Core/Parsers.dfy:727]: Ah sure, but as you move this code in here it will become part of the project/pre-built doo file, so there's no need for includes anywhere!

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy (hunk 2 above)
[the remark this answers is not in the document]
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy:114]: Ah right, damn. I suppose you could also do `'_I` and `I_'`? :)

**Review by robin-aws — COMMENTED** [review]
Reviewed README and examples as requested, will start reviewing the rest next week.

File: Source/DafnyStandardLibraries/src/Std/Parsers/README.md [hunk 7]
```diff
@@ -0,0 +1,336 @@
...
+module M {
+  import opened Std.Parsers.StringParsers
+
+  /** Tic tac toe using string parsers */
+  method Main() {
+    var x := OrSeq([
+    String("O"), String("X"), String(" ")
+    ]);
+    var v := String("|");
+    var row := Concat(x, ConcatR(v, Concat(x, ConcatR(v, x))));
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/README.md:32]: I think this is why I prefer the more visual `I_e` and `e_I` parser combinators.

I'm not comfortable with `Prefix` meaning 'throw the first argument away`. If any, it could mean keep the first argument since it's the prefix.

Since I want to encourage the builders, I will rename these concat to something more obvious but longer as well, like `ConcatKeepRight` and `ConcatKeepLeft`

File: Source/DafnyStandardLibraries/src/Std/Parsers/README.md [hunk 8]
```diff
@@ -0,0 +1,336 @@
...
+Despite combinators enabling to define mutually recursive parsers (`RecursiveMap`, `Recursive`), Dafny will always check termination. When using recursive combinators, termination is checked at run-time so it does not prevent quick prototyping and iterations, and error messages about non-termination are always precise (either the ordering, or the progression).
+
+This library offers a predicate on parsers of the first style `Valid()`, which
+indicates that such parsers will never raise a fatal result, and will always return a
+string that is suffix of the string they are given as input. Many combinators have
+a proof that, if their inputs are Valid(), then their result is Valid().
+Checking validity statically could help design parsers that do even less checks at run-time, but it has not been developed in this library.
+
+This library also offers a dual type to parser, named Displayer, which is `(Result, seq<character>) -> seq<character>`. It only defines the dual of the Concat parser combinator and proves the roundtrip to be the identity. Because Dafny does not offer
+compilable predicate to check that a datatype constructor is included in another one,
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/README.md:91]: Right, when I wrote that, it was not yet the case but we have this now !

File: Source/DafnyStandardLibraries/examples/Parsers/AdventOfCode1.dfy
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/examples/Parsers/AdventOfCode1.dfy:1]: Haha completely forgot about it but let's say I wanted to keep our blog posts consistent ;-)

Thanks.

File: Source/DafnyStandardLibraries/examples/Parsers/JsonParser.dfy [hunk 9]
```diff
@@ -0,0 +1,114 @@
...
+  }
+
+  function ToDecimalFrac(n: int, digits: seq<nat>, e10: int := 0): Decimal
+    decreases |digits|
+  {
+    if digits == [] then Decimal(n, e10)
+    else ToDecimalFrac(n * 10 + digits[0], digits[1..], e10 - 1)
+  }
+
+  datatype JSON =
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/examples/Parsers/JsonParser.dfy:24]: Excellent idea.

File: Source/DafnyStandardLibraries/examples/Parsers/JsonParser.dfy [hunk 10]
```diff
@@ -0,0 +1,114 @@
...
+    | Null
+    | Bool(b: bool)
+    | String(str: string)
+    | Number(num: Decimal)
+    | Object(obj: seq<(string, JSON)>) // Not a map to preserve order
+    | Array(arr: seq<JSON>)
+
+  const nullParser: B<JSON> := WS.e_I(S("null")).??().M((s) => Null)
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/examples/Parsers/JsonParser.dfy:32]: Based on my experience, most reusable parsers should ideally consume no whitespace. They should consume only the things they parse. That way, they can often immediately know if they can apply or not in case of disjunctions.
The context should then compose them with `....I_e(WS)` as needed to consume the trailing whitespace, and the first parser would ideally consume the leading whitespace.

Now that I read my comment, I see that this file is not based on my experience, that's why there are a lot of `??()` everywhere. I'm going to fix that immediately :-) Thanks a lot.

File: Source/DafnyStandardLibraries/examples/Parsers/JsonParser.dfy [hunk 11]
```diff
@@ -0,0 +1,114 @@
...
+  const boolParser: B<JSON> := WS.e_I(O([S("true"), S("false")])).??().M(
+                                 (s: string) =>
+                                   Bool(s == "true"))
+  const stringCharParser: B<string> :=
+    O([
+        S("\\\"").??().M((s: string) => '"'),
+        S("\\\\").??().M((s: string) => '\\'),
+        CharTest((c: char) => c != '\\' && c != '"', "no escape no quote"
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/examples/Parsers/JsonParser.dfy:40]: Renamed in "a character other than a backslash or a double quote"

File: Source/DafnyStandardLibraries/src/Std/Parsers/README.md [hunk 12]
```diff
@@ -0,0 +1,336 @@
...
+
+Despite combinators enabling to define mutually recursive parsers (`RecursiveMap`, `Recursive`), Dafny will always check termination. When using recursive combinators, termination is checked at run-time so it does not prevent quick prototyping and iterations, and error messages about non-termination are always precise (either the ordering, or the progression).
+
+This library offers a predicate on parsers of the first style `Valid()`, which
+indicates that such parsers will never raise a fatal result, and will always return a
+string that is suffix of the string they are given as input. Many combinators have
+a proof that, if their inputs are Valid(), then their result is Valid().
+Checking validity statically could help design parsers that do even less checks at run-time, but it has not been developed in this library.
+
+This library also offers a dual type to parser, named Displayer, which is `(Result, seq<character>) -> seq<character>`. It only defines the dual of the Concat parser combinator and proves the roundtrip to be the identity. Because Dafny does not offer
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/README.md:90]: After trying to make Displayers to work correctly with Input, I realized that I had spent already hours to make it work and it probably requires several more dozen of hours of work to make it work.
I will get rid of it and keep it as an experiment but not in the standard library.

File: Source/DafnyStandardLibraries/src/Std/Parsers/README.md [hunk 13]
```diff
@@ -0,0 +1,336 @@
...
+  import P = StringParsers
+}
+```
+
+
+## FAQ: 
+
+### What properties can we use it to prove?
+
+* You get for free that parsers terminate, at worst with a run-time "fatal" parser result "no progress and got back to the same function"
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/README.md:127]: I removed the notion of fatal errors at this point of the doc and added a new section below.

File: Source/DafnyStandardLibraries/src/Std/Parsers/README.md [hunk 14]
```diff
@@ -0,0 +1,336 @@
...
+* You can actually prove the absence of fatal errors. There are several lemmas that propagate this property through parsers combinators. Proving this on the recursive cases is also possible but not obvious.
+* You can prove the equivalence between various combinations of parser combinators (e.g. Bind/Succed == Map)
+* You can use these parser combinators as a specification for optimized methods that perform the same task but perhaps with a different representation, e.g. array and position instead of sequences of characters.
+
+### How does it backtrack? Like Parsec (fails if tokens are consumed)?
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/README.md:132]: I removed that.

File: Source/DafnyStandardLibraries/src/Std/Parsers/README.md [hunk 15]
```diff
@@ -0,0 +1,336 @@
...
+  di_result: string,
+  result: P.ParseResult<K>): () {
+  ()
+} by method {
+  PrintDebugSummaryOutput(name, di_result, result);
+  return ();
+}
+```
+
+Now you can use the `.Debug("some name", di, de)` suffix on any parser builder to debug its input and parse result. Let's use it on our example just before parsing the end
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/README.md:199]: Renamed to dIn and dOut

File: Source/DafnyStandardLibraries/src/Std/Parsers/README.md [hunk 16]
```diff
@@ -0,0 +1,336 @@
...
+  .End
+```
+
+Running this parser on `" 1 2 3 4 "` displays the following trace.
+
+<!-- %no-check -->
+```dafny
+> End: 9 " "
+< End: 9 " "
+| R: 0 "EOS"
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/README.md]: These [ vertical bars only help putting a visible indent to say "this is related to the line above starting with `<`". 
None of the lines starting with `>` `|` or `<` are visible if there is no debug combinator.
Do you have any other preferences?

File: Source/DafnyStandardLibraries/src/Std/Parsers/README.md [hunk 17]
```diff
@@ -0,0 +1,336 @@
...
+  .Debug("End", di, de)
+  .End
+```
+
+Running this parser on `" 1 2 3 4 "` displays the following trace.
+
+<!-- %no-check -->
+```dafny
+> End: 9 " "
+< End: 9 " "
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/README.md]: I updated the debug trace, should be way clearer.

File: Source/DafnyStandardLibraries/src/Std/Parsers/README.md [hunk 18]
```diff
@@ -0,0 +1,336 @@
...
+| 1:  1 2 3 4
+|             ^
+| expected a digit
+|
+```
+
+This trace indicates that the parser to the left of `.Debug` started to parse when there were 9 characters left (the entire string) and the first character was a space.
+When it finished (displaying the same length of 9 and first space character)
+it says that the remaining to parse has length 0 and "starts" with the end of string.
+The "was committed" message simply indicates that the parser considers anything between 0 and 9 as having been correctly parsed and 9 > 0;
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/README.md:228]: Rephrased before.

File: Source/DafnyStandardLibraries/examples/Parsers/ParsersTheorems.dfy [hunk 19]
```diff
@@ -0,0 +1,474 @@
...
+    reveal ConcatR();
+    reveal ConcatMap();
+  }
+
+  function first<L, R>(): ((L, R)) -> L {
+    (lr: (L, R)) => lr.0
+  }
+  function second<L, R>(): ((L, R)) -> R {
+    (lr: (L, R)) => lr.1
+  }
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/examples/Parsers/ParsersTheorems.dfy]: Added to Std.Collections.Tuple. I'm not adding more functions there as we can add them later.

File: Source/DafnyStandardLibraries/examples/Parsers/ParsersTheorems.dfy [hunk 20]
```diff
@@ -0,0 +1,474 @@
+abstract module ExampleParsers.Theorems refines Std.Parsers.Core {
+
+  ghost predicate Trigger<T>(i: T) { true }
+
+  opaque ghost predicate Valid<R>(underlying: Parser<R>)
+    // A parser is valid iff for any input, it never returns a fatal error
+    // and always returns a suffix of its input
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/examples/Parsers/ParsersTheorems.dfy]: Reformulated to:
```

    // A parser is NeverFatal iff for any input, it never returns a fatal error
    // Since fatal errors occur only when a parser returns more characters than it was given,
    // NeverFatal means the remaining unparsed must be smaller or equal to the input
```

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy (hunk 2 above)
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy:131]: You could but then that means the resulting generated code will look like `_q__I` and `I___q` in most backends, and  even `__q__I` and `_I___q` in Rust, which does not look as symmetrical. Plus, quotes make it hard to select the entire identifier in any regular IDE. So no, I don't think I want to add quotes in identifiers in a builder pattern.

File: Source/DafnyStandardLibraries/README.md [hunk 21]
```diff
@@ -58,6 +58,7 @@ The sections below describe how to use each library:
 - [Std.JSON](src/Std/JSON/JSON.md) -- JSON serialization and deserialization
 - [Std.Math](src/Std/Math.md) -- common mathematical functions, such as Min and Abs
 - [Std.Ordinal](src/Std/Ordinal.md) -- operations and properties of the ORDINAL type
+- [Std.Parsers](src/Std/Parserss/README.md) -- parser combinators
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/README.md:61]:
```suggestion
- [Std.Parsers](src/Std/Parsers/README.md) -- parser combinators
```

File: Makefile [hunk 22]
```diff
@@ -10,6 +10,12 @@ all: exe refman
 exe:
 	(cd "${DIR}" ; dotnet build Source/Dafny.sln ) ## includes parser
 
+exe-2:
+	(cd "${DIR}" ; dotnet build Source/Dafny.sln ) ## includes parser
+
+exe-3:
+	(cd "${DIR}" ; dotnet build Source/Dafny.sln ) ## includes parser
+
```
Comment (robin-aws) [inline Makefile:18]: Wat

File: .gitattributes [hunk 23]
```diff
@@ -31,3 +31,4 @@ Binaries/dafny-server text eol=lf
 *.jpg binary
 *.xcf binary
 *.snk binary
+*.doo binary merge=keepMine
```
Comment (robin-aws) [inline .gitattributes:34]: Nice, should have thought of that a while ago :)

File: Source/DafnyCore/Backends/CSharp/CsharpCodeGenerator.cs [hunk 24]
```diff
@@ -187,7 +187,9 @@ protected override void EmitBuiltInDecls(SystemModuleManager systemModuleManager
     private void EmitFuncExtensions(SystemModuleManager systemModuleManager, ConcreteSyntaxTree wr) {
       var funcExtensions = wr.NewNamedBlock("internal static class FuncExtensions");
       wr.WriteLine("// end of class FuncExtensions");
-      foreach (var kv in systemModuleManager.ArrowTypeDecls) {
+      var arrowTypeDecls = systemModuleManager.ArrowTypeDecls.ToList();
+      arrowTypeDecls.Sort((pair, valuePair) => pair.Key - valuePair.Key);
```
Comment (robin-aws) [inline Source/DafnyCore/Backends/CSharp/CsharpCodeGenerator.cs:191]: "pair"/"valuePair" really threw me off, as I thought this was deconstructing dictionary key/value pairs at first. How about just "left"/"right"?

File: Source/DafnyStandardLibraries/examples/Parsers/SmtParser.dfy [hunk 25]
```diff
@@ -0,0 +1,135 @@
...
+                 ResultWith(RecursiveProgressError<RecNoStackResult<SmtNode>>("RecContinueAcc", input, input2))
+               else
+                 RecContinueAcc(input2, acc + [r]))
+          ))])
+  }
+
+  // Parses
+  //   (name ...sequence of SmtNode space-separated)
+  // | name
+  // But does not consume stack like parserSmtNode does
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/examples/Parsers/SmtParser.dfy:80]: Cool!

File: Source/DafnyStandardLibraries/examples/Parsers/Tutorial.dfy [hunk 26]
```diff
@@ -0,0 +1,109 @@
...
+    // 012345 678901 234567 890123 45678
+    var r := grid(input);
+    expect r.IsFailure();
+    expect A.Length(input) - A.Length(r.data.remaining) == 24;
+    expect r.data.message == "expected 'O'";
+    expect r.data.next.Some?;
+    expect r.data.next.value.message == "expected 'X'";
+    expect r.data.next.value.next.Some?;
+    expect r.data.next.value.next.value.message == "expected ' '";
+    expect r.data.next.value.next.value.next.None?;
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/examples/Parsers/Tutorial.dfy:62]: (nit) Couldn't this be `expect r == ParseSuccess(...)`?

File: Source/DafnyStandardLibraries/scripts/check-examples [hunk 27]
```diff
@@ -63,6 +63,11 @@
 ##              "dafny run --use-basename-for-filename $F" and,
 ##              if <expect> is present, checks that the output matches the
 ##              content of the file names <expect>
+##   %check-run-output <expect> : Like %check-run, runs
+##              "dafny run --use-basename-for-filename $F" and,
+##              if there is an output, it will ignore it
+##   %check-expect : compares the output against the output of the previous
+##              %check-run-output command
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/scripts/check-examples:70]: Was just this for your local debugging or is it used in CI now? I don't love the statefulness if the latter.

File: Source/DafnyStandardLibraries/src/Std/Collections/Tuple.dfy [hunk 28]
```diff
@@ -0,0 +1,19 @@
...
+ *  Copyright by the contributors to the Dafny Project
+ *  SPDX-License-Identifier: MIT
+ *******************************************************************************/
+
+/**
+ This module defines useful properties and functions relating to the built-in tuple type.
+ */
+module Std.Collections.Tuple {
+  /** Extracts the first component of a pair */
+  function T2_0<L, R>(): ((L, R)) -> L {
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Collections/Tuple.dfy:11]: Why not something more readable like `First`/`Second`?

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy [hunk 29]
```diff
@@ -0,0 +1,501 @@
+/*******************************************************************************
+ *  Copyright by the contributors to the Dafny Project
+ *  SPDX-License-Identifier: MIT 
+ *******************************************************************************/
+
+// Simple DSL to build parsers to avoid too much parenthesis nesting
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy:6]: You should probably either document the missing methods or not bother with the summary (I'd lean towards the latter, you've documented them individually very well and the examples give a good summary of the common ones already)

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy:1]: Awesome stuff, just generally pushing towards slightly longer names - I think they'll make a big difference in readability without adding too many characters.

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy [hunk 30]
```diff
@@ -0,0 +1,501 @@
...
+  }
+
+  /** Parses nothing, always returns a success with nothing consumed. Can be useful in alternatives. */
+  const Nothing: B<()> := B(P.Epsilon())
+
+  /** An identity function useful for B.M2 and B.M3 */
+  function MId<R>(r: R): R { r }
+
+  /** Adapter to wrap any underlying parser so that they can be chained together. */
+  datatype B<R> = B(apply: P.Parser<R>)
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy:99]: We can call this `Builder` right? I'm assuming it usually only shows up at the beginning of the builder chain?

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersTheorems.dfy [hunk 31]
```diff
@@ -0,0 +1,367 @@
...
+  }
+
+  lemma AboutSucceedWith<R>(result: R, input: Input)
+    ensures
+      var p := SucceedWith(result);
+      && p(input).ParseSuccess?
+      && p(input).remaining == input
+  { reveal SucceedWith(); }
+
+  lemma AboutFail_<R>(message: string, level: FailureLevel, input: Input)
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersTheorems.dfy:28]: Why the underscores?

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersTheorems.dfy [hunk 32]
```diff
@@ -0,0 +1,367 @@
...
+    ensures Map(Concat(left, right), T2_0())(input) == ConcatKeepLeft(left, right)(input)
+  {
+    reveal Concat();
+    reveal SucceedWith();
+    reveal ConcatKeepLeft();
+    reveal Map();
+    reveal ConcatMap();
+  }
+
+  predicate AboutRepIncreasesPosIfUnderlyingSucceedsAtLeastOnceEnsures<R>(
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersTheorems.dfy:188]:
```suggestion
  predicate AboutRepIncreasesPosIfUnderlyingSucceedsAtLeastOnce_Ensures<R>(
```
?

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersTheorems.dfy [hunk 33]
```diff
@@ -0,0 +1,367 @@
...
+        assert IsRemaining(input, remaining);
+        assert IsRemaining(remaining, r(remaining).Remaining());
+        assert p(input).Remaining() == r(remaining).Remaining();
+        IsRemainingTransitive(input, remaining, p(input).Remaining());
+        assert IsRemaining(input, p(input).Remaining());
+      } else {
+        assert IsRemaining(input, p(input).Remaining());
+      }
+      assert IsRemaining(input, p(input).Remaining());
+      //reveal v;
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersTheorems.dfy:343]:
```suggestion
```

File: Source/DafnyStandardLibraries/src/Std/Parsers/String/StringBuilders.dfy [hunk 34]
```diff
@@ -0,0 +1,118 @@
...
+    requires 0 <= fromEnd <= |other|
+    ensures P.A.View(i) == other[|other|-fromEnd..|other|]
+  {
+    P.A.Input(other, |other| - fromEnd, |other|)
+  }
+
+  /** `S(PREFIX)` returns success on its input if its starts with `PREFIX`,  
+      On success, `.value` contains the extracted string. You can ignore it by chaining it like `S(PREFIX).e_I(...)`  
+      On failure, returns a recoverable error that did not consume the input.*/
+  function S(s: string): B<string> {
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Parsers/String/StringBuilders.dfy:29]: I feel like calling this `Fixed` or `Constant`...

File: Source/DafnyStandardLibraries/src/Std/Parsers/String/StringParsers.dfy [hunk 35]
```diff
@@ -0,0 +1,408 @@
+/*******************************************************************************
+ *  Copyright by the contributors to the Dafny Project
+ *  SPDX-License-Identifier: MIT 
+ *******************************************************************************/
+
+/** Until string slicing is implemented in O(1), a string input consists of the original string,
+  * a start and an end marker. */
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Parsers/String/StringParsers.dfy:7]: :(

But consider extracting the `Input` datatype to a general `Collections.Seq.Slice<T>` datatype, since it's such a common workaround. I think the JSON library already has something similar too.

File: Source/DafnyStandardLibraries/src/Std/Parsers/String/StringParsers.dfy [hunk 36]
```diff
@@ -0,0 +1,408 @@
...
+  opaque function Char(expectedChar: char): (p: Parser<char>)
+    // A parser that tests if the current char is the given expected char
+  {
+    CharTest((c: char) => c == expectedChar, [expectedChar])
+  }
+
+  opaque function Space(): (p: Parser<char>)
+    // A parser that tests if the current char is a whitespace including newline
+  {
+    CharTest(c => c in " \t\r\n", "space")
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Parsers/String/StringParsers.dfy:116]: This is a very old school, pre-unicode notion of spaces, I would at least qualify the names to warn users about that.

File: Source/DafnyStandardLibraries/src/Std/Parsers/String/StringParsers.dfy [hunk 37]
```diff
@@ -0,0 +1,408 @@
...
+      if |expected| <= A.Length(input) && A.Slice(input, 0, |expected|).ToString() == expected then
+        ParseSuccess(expected, A.Drop(input, |expected|))
+      else ParseFailure(Recoverable, FailureData("expected '"+expected+"'", input, Option.None))
+  }
+
+  // ########################
+  // Error handling utilities
+  // ########################
+
+  function repeat_(str: string, n: nat): (r: string)
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Parsers/String/StringParsers.dfy:175]: `Collections.Seq.Repeat`!

File: Source/DafnyStandardLibraries/src/Std/Parsers/String/StringParsers.dfy [hunk 38]
```diff
@@ -0,0 +1,408 @@
...
+  opaque ghost function ExtractLineColSpecAux(vars: ExtractLineMutableState): (res: ExtractLineMutableState)
+    requires 0 <= vars.startLinePos <= vars.i <= |vars.input|
+    decreases |vars.input| - vars.i
+    ensures 0 <= res.startLinePos <= res.i <= |res.input|
+    ensures !(res.i < |res.input| && res.i != res.pos) // Negation of the while guard
+  {
+    if vars.i < |vars.input| && vars.i != vars.pos then
+      var colNumber := vars.colNumber + 1;
+      if vars.input[vars.i] == '\r' && vars.i + 1 < |vars.input| && vars.input[vars.i+1] == '\n' then
+        //var startLinePos := i + 1; // ORIGINAL BUG: vars.i + 1
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Parsers/String/StringParsers.dfy:195]: Recording a time Dafny caught a bug? :)

File: docs/dev/news/parsers.feat [hunk 39]
```diff
@@ -0,0 +1 @@
+Parser combinators now available from the standard library
```
Comment (robin-aws) [inline docs/dev/news/parsers.feat:1]: I think you've earned a few more words on this than just that. :) Mention some of the cool features at least too!

File: Source/DafnyStandardLibraries/src/Std/Parsers/README.md [hunk 40]
```diff
@@ -0,0 +1,152 @@
...
+## FAQ: 
+
+### What properties can we use it to prove?
+
+* You get for free that parsers terminate, at worst with a run-time parser failure result "no progress and got back to the same function".
+* You can actually prove the absence of certain kinds of errors. There are several lemmas that propagate this property through parsers combinators. Proving this on the recursive cases is also possible but not obvious.
+* You can prove the equivalence between various combinations of parser combinators (e.g. Bind/Succeed == Map)
+* You can use these parser combinators as a specification for optimized methods that perform the same task but perhaps with a different representation, e.g. array and position instead of sequences of characters.
+
+### What are fatal errors?
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Parsers/README.md:132]: Awesome, thanks

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/Parsers.dfy [hunk 41]
```diff
@@ -0,0 +1,819 @@
...
+  /** Use a function that can print to debug, and possibly modify the parser*/
+  opaque function Debug<R, D>(underlying: Parser<R>, name: string, onEnter: (string, Input) -> D, onExit: (string, D, ParseResult<R>) -> ()): (p: Parser<R>) {
+    (input: Input) =>
+      var debugData := onEnter(name, input);
+      var output := underlying(input);
+      var _ := onExit(name, debugData, output);
+      output
+  }
+
+  // A datatype that avoid a quadratic complexity in concatenating long sequences.
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Parsers/Core/Parsers.dfy:517]: Why is this necessary given all the backends already do this for sequence concatenation?

**Review by robin-aws — CHANGES_REQUESTED** [review]
Really exemplary work all around, and excellent depth of documentation and examples. Mainly quibbling over too-short names in the DSL and some potential reuse of existing utilities.

File: Source/DafnyStandardLibraries/examples/Parsers/SmtParser.dfy [hunk 42]
```diff
@@ -0,0 +1,135 @@
+/**
+ This example demonstrates how to use Rec to create an SMT parser,
+ and RecNoStack to create an SMT parser that does not consume any stack.
+*/
+module ExampleParsers.SmtParser {
+  import opened Std.Parsers.StringBuilders
+
+  function SeqToString<T>(s: seq<T>, f: T --> string, separator: string := ""): string
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/examples/Parsers/SmtParser.dfy:8]: The map from the library takes a total function, and I need a partial one to ensure all the things it's called with are in the list for termination purposes.
Perhaps we could create another Map for that purpose but I don't plan to for now.

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy [hunk 43]
```diff
@@ -0,0 +1,501 @@
...
+        
+        For example, a.If(b.??()) is a way to test the parser b as a lookahead without committing anything.
+         */
+    function If<U>(cond: B<U>): (p: B<R>) {
+      B(P.If(cond.apply, apply))
+    }
+
+    /** `a.M(f)` evaluates `a` on the input, and then if it returns a success,  
+        transforms the value using the function `f`. */
+    function M<U>(mappingFunc: R -> U): (p: B<U>) {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy:178]: Yes I thought of that too. I deliberated and here is why I'll stick to `M` only.
I designed the builders so that variants used the most can be as short as possible while remaining readable. That way constants can use `S()`, include/exclude take only three letters, and Map only one letter.

Since parser builders already require a learning curve, I'm piggy backing on it to avoid long identifiers, and only abbreviations. That way there is a relatively clear separation between the raw parsers and these builders.

If one wants to use the longer forms like `Map`, I'd recommend to use the parser combinators without the DSL, which use explicit names everywhere.
In very little time I was used to just `M` and I am glad I don't need to write 2 extra chars everywhere.

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy [hunk 44]
```diff
@@ -0,0 +1,501 @@
...
+         then it return the result.
+         Very useful for debugging, see the README on how to use it. Typically `D` is the input itself. */
+    function Debug<D>(name: string, onEnter: (string, Input) -> D, onExit: (string, D, ParseResult<R>) -> ()): B<R> {
+      B(P.Debug(apply, name, onEnter, onExit))
+    }
+
+    /** `a.RepFold(init, combine) will consider init as an accumulator, and every time `a` succeeds and parses some input, it will
+        combine(init, result) for the new accumulator value.  
+        If `a` fails once while consuming input, it returns the failure. */
+    function RepFold<A>(init: A, combine: (A, R) -> A): (p: B<A>)
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy:231]: I'm considering it but then instead of `Rep` and `Rep1` you'd have the two heterogeneous `Star` and `Plus` which are not descriptive enough for me. So I'd prefer to stick with the 3 letter version of `Rep`.

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy [hunk 45]
```diff
@@ -0,0 +1,501 @@
...
+    }
+  }
+
+  /** `O([a, b, ...])` parses `a` on the input, and if `a` succeeds, returns its result.
+      If `a` fails with a fatal error, returns the fatal error.
+      If `a` fails and consumed some input, returns that error.
+      If `a` fails but did not consume any input, continues parsing `b` and so on.
+      If none of the alternatives parse the input, builds a more complex failure message indicating what each sub-parser was expecting.
+  */
+  function O<R>(alternatives: seq<B<R>>): B<R>
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy:295]: That would collide with the Parsers library which already defines `Or`. :-(  this is the parsers builders library.
With all your suggestions of making combinator more verboses, note that, you'd easily multiply by 20-30% the description of a parser.
When I was writing these combinators in scala, they were even smaller (I could use | for Or, ~ for concatenation, ~> for right concatenation, etc). There is a huge value in being able to write parsers using fewer chars possible. It makes structural parts different from the content that really matter (constants, named parts).

I've written a lot of parsers already and I wouldn't do a redesign of the builders for the standard libraries. Happy to change the names of the parser combinators in Core though.

File: Source/DafnyStandardLibraries/examples/Parsers/SmtParser.dfy (hunk 42 above)
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/examples/Parsers/SmtParser.dfy:8]: Oh I just found out that I had a wrong assumption, that the standard library Map function actually a partial function. Nevermind, will update, I prefer to reuse existing code too.

File: Makefile (hunk 22 above)
Comment (MikaelMayer) [reply Makefile:18]: Oh yeah. The command `make pr` does not adequately compile the whole project anymore after a change unless it compiles Dafny at least three times.
Here are the dependencies. If you make a change to the repository and would like to update all the dependencies.

-  You need to compile Dafny first.  One `exe`
- Then you might need to regenerate the standard libraries.
- Then you need to compile Dafny again so that the executable has the latest standard libraries. Second `exe-2`
- Then you might need to regenerate the .cs files from `DafnyCore`, some of which depend on the C# version of the standard libraries.
- After you're done regenerating these core files, you need to regenerate the executable, hence `exe-3`.

You also need different Makefile target names to build the solution, otherwise Makefile will think that the dependency was already built and will ignore it.

I realized I hadn't used `exe-3` because it was hard-coded in `dfy-to-cs-exe`, so I'll add it there to simplify things.

File: .gitattributes (hunk 23 above)
Comment (MikaelMayer) [reply .gitattributes:34]: I thank LLMs for suggesting that :-)

File: Source/DafnyStandardLibraries/examples/Parsers/Tutorial.dfy (hunk 26 above)
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/examples/Parsers/Tutorial.dfy:62]: Since the failure message is already tested below and the test is more readable, I'm removing these intermediate tests so that we don't test the internal representation.

File: Source/DafnyStandardLibraries/scripts/check-examples (hunk 27 above)
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/scripts/check-examples:70]: It is use in the CI of this PR. In the README, it makes it possible to present a program and say "here is this program's output" and have that program's output be tested against the provided program. Otherwise outputs are not tested. In a README, we usually use two code blocks for that. I don't know how to do it in a non-stateful way since the loop takes every block separately.

File: Source/DafnyStandardLibraries/src/Std/Collections/Tuple.dfy (hunk 28 above)
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Collections/Tuple.dfy:11]: Because we can't make this function polymorphic in the arity of the tuple, and a tuple can contain more elements than a pair. We wouldn't be able to reuse `First` and `Second` for tuples of arity 3.
Since this is the standard library, I'd prefer to have a notation that will work no matter the arity of the tuple. By including the arity of the tuple in the function's name, it's very easy to generalize.

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy (hunk 29 above)
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy:6]: I lean towards the latter as well. Here is the rewritten summary

```
// A domain-specific language (DSL) for building parsers that uses minimal syntax
// (including single-letter combinators like M or C) to visually separate the parser logic
// (constants, strings, and custom parser calls) from the underlying combinator
// machinery. This makes complex parser definitions more readable by reducing
// syntactic noise.
```

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy:1]: See https://github.com/dafny-lang/dafny/pull/6143/#discussion_r2083115602 as I'm adding a description about why short names in parser combinators matter.

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy (hunk 30 above)
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/Core/ParsersBuilders.dfy:99]: See [this comment](https://github.com/dafny-lang/dafny/pull/6143/#discussion_r2083115602) as I'm adding a description about why short names in parser combinators matter.
This includes the name for builders itself, which repetitively appears in lambda expressions when chaining parsers.

File: Source/DafnyStandardLibraries/src/Std/Parsers/String/StringBuilders.dfy (hunk 34 above)
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/String/StringBuilders.dfy:29]: See [this comment](https://github.com/dafny-lang/dafny/pull/6143/#discussion_r2083115602) as I'm adding a description about why short names in parser combinators matter.
This include the parser combinator that test prefixes. We can definitely change the name in `ParserCore.dfy`, but for the parser builders the shortest is better, and `S` is an extremely used parser combinator, so it deserve a one-letter function.

File: Source/DafnyStandardLibraries/src/Std/Parsers/String/StringParsers.dfy (hunk 36 above)
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/String/StringParsers.dfy:116]: I went full unicode on this one and added every possible whitespace that a LLM could think of.

File: Source/DafnyStandardLibraries/src/Std/Parsers/String/StringParsers.dfy (hunk 38 above)
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/String/StringParsers.dfy:195]: Yep, but the line has been changed so much that this is no longer relevant. Removing.

File: Source/DafnyStandardLibraries/src/Std/Parsers/Core/Parsers.dfy (hunk 41 above)
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Parsers/Core/Parsers.dfy:517]: Doing this resulted in a +430% speedup on a benchmark that was using single-character repetition when using the JavaScript version of the parsers.
I think that the problem is when we do this.

    "a" + "b" + "c" + "d" + ...

it does perform the concatenation in a lazy way, but when the time comes when we want to realize the final strings, two things happen
- The recursion to get the string blows the stack in some cases
- When it does not blow the stack, intermediate strings seem to be concretized even though they are not necessary.

File: Source/DafnyStandardLibraries/src/Std/Collections/Tuple.dfy (hunk 28 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Collections/Tuple.dfy:11]: I do occasionally wish we had overloading :) 

I guess this is here more so that you can use `T2_0` as a function value, rather than using `T2_0(p)` instead of the simpler `p.0`? I can accept that then. There are also functions like `Seq.First` which read better than the natural syntax, which is what I thought you were after at first.

File: Source/DafnyStandardLibraries/src/Std/Parsers/String/StringParsers.dfy (hunk 36 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Parsers/String/StringParsers.dfy]: Oh I'm wary of that, I wouldn't do that unless there's a standard and well-accepted notion of whitespace we can lean on.

**Review by robin-aws — APPROVED** [review]
Very much appreciate the more verbose aliases we decided on, thanks for putting in the extra effort to make more users happy. :)
